US08309685B2
tert-butyl-(1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamate:
To a stirring solution of 500 mg (1R,2S)-1-BOC-amino-2-vinylcyclopropane carboxylic acid (2.2 mmol) in 4 mL of DMA (N,N-dimethylacetamide), was added 370 mg of carbonyl diimidazole (CDI, 2.3 mmol). The reaction mixture was stirred at RT for 1 hr, followed by addition of 280 mg of cyclopropylsulfonamide (2.3 mmol), 1 mL of diisopropylethylamine and 350 uL of DBU. The resulting mixture was stirred at 60° C. overnight. The solvent was removed, and normal workup was applied with 100 mL of EtOAc, washed with 10 mL of 1.0 N aqueous HCl, dried over anhydrous Na2SO4. After concentration, the residue was purified by flash column chromatography giving 580 mg of white solid. 1HNMR (CDCl3, 400 MHz) δ 9.7 (br s, 1H), 5.61 (m, 1H), 5.33 (br dd, 2H, J=9.6, 1.2 Hz), 5.18 (dd, J=9.6, 1.2 Hz), 2.92 (m, 1H) 2.14 (q, 1H, J=8.0 Hz), 1.91 dd, 1H, J=8.4, 2.4 Hz), 1.55 (br s, 2H), 1.47 (s, 9H), 1.40 (m, 2H), 1.30 (m, 2H), 0.95-1.15 (m, 2H). LC/MS: m/z 329.1, (M−1, ES−).

reactant | (1R,2S)-1-BOC-amino-2-vinylcyclopropane carboxylic acid | 2.2 mmol, 500 mg | C(=O)(OC(C)(C)C)[C@]1([C@](C1)(C=C)N)C(=O)O | C11H17NO4
reactant | carbonyl diimidazole | 2.3 mmol, 370 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | cyclopropylsulfonamide | 2.3 mmol, 280 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DBU | 350 uL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMA | 4 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl-(1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamate | 580 mg | C(C)(C)(C)OC(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1CC1)=O)=O | C14H22N2O5S
